US08217069B2
A mixture of 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-chloromethyl-6-methoxy-7,9-dihydro-8H-purin-8-one (0.1 g) and sodium azide (15 mg) in N,N-dimethylformamide (2 mL) was stirred at 100° C. for 1.5 hours. The reaction mixture was cooled to room temperature, and poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/4). The obtained product was suspended in a mixed solvent (n-hexane/ethyl acetate=1/1), and collected by filtration. The collected material was dried under reduced pressure to give 2-azidomethyl-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (74 mg). To this material were added tetrahydrofuran (5 mL), ethanol (1 mL) and 10% platinum-carbon powder (20 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/methanol=9/1−methanol) to give 2-aminomethyl-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (44 mg). To this material were added tetrahydrofuran (3 mL), triethylamine (0.1 mL) and di(tert-butyl)dicarbonate (28 mg), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/4) to give the title compound (36 mg).

reactant | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-chloromethyl-6-methoxy-7,9-dihydro-8H-purin-8-one | 0.1 g | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)CCl | C22H18Cl2F2N4O5
reactant | sodium azide | 15 mg | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-azidomethyl-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 74 mg | N(=[N+]=[N-])CC1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)=O)OC | C22H18ClF2N7O5
